US06645968B2
Methyl N′-cyano-N-(3-pyridinyl)carbamimidothioate
A suspension of 3-aminopyridine (5.16 g, 54.8 mmol) and dimethyl N-cyanodithioiminocarbonate (8.02 g, 54.8 mmol) in acetonitrile (200 mL) was heated at reflux for 6 days. The solution was cooled and concentrated to a volume of 75 mL where upon a white solid precipitated from solution. The solid was collected by filtration and washed with 50% ether/hexanes (500 mL) to provide 7.79 g of the desired product as a pale yellow solid.

reactant | 3-aminopyridine | 54.8 mmol, 5.16 g | NC=1C=NC=CC1 | C5H6N2
reactant | dimethyl N-cyanodithioiminocarbonate | 54.8 mmol, 8.02 g | CSC(=NC#N)SC | C4H6N2S2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Methyl N′-cyano-N-(3-pyridinyl)carbamimidothioate | 7.79 g | C(#N)N=C(NC=1C=NC=CC1)SC | C8H8N4S
